US04200466
(1) Preparation of 3-(γ-sulfopropylamino)-phenol
In 3 liters of ethanol were dissolved 330 g of m-amino-phenol and the resulting solution was boiled under reflux and to this solution were added 360 g of propanesultone all together. Continuation of the reflux yielded gradually white powdery crystal. After refluxing for 5 hours, the reaction solution was cooled with ice and the yielded white powdery crystal was collected by filtration and washed several times with ethanol. The yield was 146 g and the melting point was above 250° C.

reactant | m-amino-phenol | 330 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | propanesultone | 360 g | C1CCOS1(=O)=O | C3H6O3S
solvent | ethanol | 3 liters | C(C)O | C2H6O
product | 3-(γ-sulfopropylamino)-phenol | S(=O)(=O)(O)CCCNC=1C=C(C=CC1)O | C9H13NO4S
